US08664257B2
Step 1: 1-(2-Fluoro-phenyl)-5-(pyrrolidine-1-carbonyloxy)-1H-pyrazole-3-carboxylic acid
150 mg (0.675 mmol) of 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid were dissolved in 5 ml of THF. 440 mg (1.35 mmol) of cesium carbonate and 90.2 mg (0.675 mmol) of pyrrolidine-1-carbonyl chloride were added and the mixture was heated to 50° C. for 4 h. Then the mixture was filtrated and the filtrate containing the title compound directly used in the next step.

reactant | 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid | 0.675 mmol, 150 mg | FC1=C(C=CC=C1)N1N=C(C=C1O)C(=O)O | C10H7FN2O3
reactant | cesium carbonate | 1.35 mmol, 440 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrolidine-1-carbonyl chloride | 0.675 mmol, 90.2 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2-Fluoro-phenyl)-5-(pyrrolidine-1-carbonyloxy)-1H-pyrazole-3-carboxylic acid | FC1=C(C=CC=C1)N1N=C(C=C1OC(=O)N1CCCC1)C(=O)O | C15H14FN3O4
